US06806274B1
1-(2,6-dichlorophenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]urea
2,6-Dichlorophenyl isocyanate (0.075 g) was added to a solution of 4-amino-6-methoxy-7-(methylpiperidin-4-ylmethoxy)quinazoline (0.093 g) in a mixture of methylene chloride (2 ml) and DMF (0.1 ml) and the reaction mixture was stirred at ambient temperature for 16 hours. The resultant solid was isolated, redissolved in a 20:1 mixture of methylene chloride and methanol and purified by column chromatography on silica using increasingly polar mixtures of methylene chloride, methanol and a 1% aqueous ammonium hydroxide solution as eluent. There was thus obtained the title compound as a white solid (0.029 g); NMR Spectrum: (DMSOd6) 1.3-1.4 (m, 2H), 1.7-1.8 (m, 4H), 1.85 (t, 1H), 2.1 (s, 3H), 2.8 (d, 2H), 3.9 (s, 3H), 4.0 (br d, 2H), 7.3 (br s, 1H), 7.4 (d, 1H), 7.5 (s, 1H), 7.6 (s, 1H), 8.0 (br s, 1H), 8.7 (s, 1H); Mass Spectrum: M+H+ 490, 492 and 494.

reactant | 2,6-Dichlorophenyl isocyanate | 0.075 g | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
reactant | 4-amino-6-methoxy-7-(methylpiperidin-4-ylmethoxy)quinazoline | 0.093 g | NC1=NC=NC2=CC(=C(C=C12)OC)OC(C1CCNCC1)C | C16H22N4O2
reactant | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 1-(2,6-dichlorophenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]urea | 0.029 g | ClC1=C(C(=CC=C1)Cl)NC(=O)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C23H25Cl2N5O3
